US05567391
7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one;
1,3-dihydro-5-(4-methoxyphenyl)-2H-1,4-benzodiazepin-2-one; 1,3-dihydro-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one; 1,3-dihydro-1-isopropyl-6-methyl-2H-1,4-benzodiazepin-2-one; 7-nitro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one; 5-cyclohexyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one; 1,3-dihydro-5-(2-thienyl)-2H-1,4-benzodiazepin-2-one; 1,3-dihydro-3-(4-hydroxyphenyl)-5-phenyl-2H-1,4-benzodiazepin-2-one; 7-chloro-1,3-dihydro-3-(4-hydroxyphenyl)-5-phenyl-2H-1,4-benzodiazepin-2-one; 1,3-dihydro-5-(4-methoxyphenyl)-3-(4-hydroxyphenyl)-2H-1,4-benzodiazepin-2-one;

reactant | 1,3-dihydro-5-(4-methoxyphenyl)-2H-1,4-benzodiazepin-2-one | COC1=CC=C(C=C1)C1=NCC(NC2=C1C=CC=C2)=O | C16H14N2O2
reactant | 1,3-dihydro-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1 | C15H11N3O3
reactant | 1,3-dihydro-1-isopropyl-6-methyl-2H-1,4-benzodiazepin-2-one | C(C)(C)N1C(CN=CC2=C1C=CC=C2C)=O | C13H16N2O
reactant | 7-nitro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1 | C16H13N3O3
reactant | 5-cyclohexyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | C1(CCCCC1)C1=NCC(NC2=C1C=CC=C2)=O | C15H18N2O
reactant | 1,3-dihydro-5-(2-thienyl)-2H-1,4-benzodiazepin-2-one | S1C(=CC=C1)C1=NCC(NC2=C1C=CC=C2)=O | C13H10N2OS
reactant | 1,3-dihydro-3-(4-hydroxyphenyl)-5-phenyl-2H-1,4-benzodiazepin-2-one | OC1=CC=C(C=C1)C1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C21H16N2O2
reactant | 7-chloro-1,3-dihydro-3-(4-hydroxyphenyl)-5-phenyl-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=NC(C(N2)=O)C2=CC=C(C=C2)O)C2=CC=CC=C2)C1 | C21H15ClN2O2
reactant | 1,3-dihydro-5-(4-methoxyphenyl)-3-(4-hydroxyphenyl)-2H-1,4-benzodiazepin-2-one | COC1=CC=C(C=C1)C1=NC(C(NC2=C1C=CC=C2)=O)C2=CC=C(C=C2)O | C22H18N2O3
product | 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1 | C15H11ClN2O
